* File: BUFX2.pex.netlist
* Created: Wed Jan  2 18:28:41 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt BUFX2  Y GND VDD A
* 
MM3 Y a_2_6# GND GND NMOS_VTL L=5e-08 W=5e-07
MM2 GND A a_2_6# GND NMOS_VTL L=5e-08 W=2.5e-07
MM1 Y a_2_6# VDD VDD PMOS_VTL L=5e-08 W=1e-06
MM0 VDD A a_2_6# VDD PMOS_VTL L=5e-08 W=5e-07
c_4 Y 0 0.117784f
c_8 GND 0 0.0661014f
c_12 VDD 0 0.0922986f
c_16 A 0 0.0837548f
c_21 a_2_6# 0 0.240126f
*
.include "BUFX2.pex.netlist.BUFX2.pxi"
*
.ends
*
*
