* File: INVX4.pex.netlist
* Created: Wed Jan  2 18:45:02 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt INVX4  Y A GND VDD
* 
MM2 GND A Y GND NMOS_VTL L=5e-08 W=5e-07
MM3 GND A Y GND NMOS_VTL L=5e-08 W=5e-07
MM0 VDD A Y VDD PMOS_VTL L=5e-08 W=1e-06
MM1 VDD A Y VDD PMOS_VTL L=5e-08 W=1e-06
c_4 Y 0 0.0689645f
c_8 A 0 0.227321f
c_12 GND 0 0.117956f
c_16 VDD 0 0.141907f
*
.include "INVX4.pex.netlist.INVX4.pxi"
*
.ends
*
*
