* File: NOR2X1.pex.netlist
* Created: Wed Jan  2 18:52:38 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt NOR2X1  A VDD B Y GND
* 
MM2 Y A GND GND NMOS_VTL L=5e-08 W=2.5e-07
MM3 GND B Y GND NMOS_VTL L=5e-08 W=2.5e-07
MM0 a_9_54# A VDD VDD PMOS_VTL L=5e-08 W=1e-06
MM1 Y B a_9_54# VDD PMOS_VTL L=5e-08 W=1e-06
c_5 A 0 0.097464f
c_9 VDD 0 0.137301f
c_14 B 0 0.096444f
c_19 Y 0 0.0708282f
c_23 GND 0 0.0804266f
*
.include "NOR2X1.pex.netlist.NOR2X1.pxi"
*
.ends
*
*
